Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine / Donnatal / nitroglycerin / tramadol
 
Attending: ___.
 
Chief Complaint:
Fall down stairs
 
Major Surgical or Invasive Procedure:
___: Irrigation and debridement down to and inclusive of 
bone in excisional manner of open tibia shaft fracture, and 
fixation with lateral plating.

 
History of Present Illness:
___ F with PMH aspiration/CHF on hospice presenting s/p fall as 
a transfer from ___. Per ___ they believe she missed her 
stair chair and fell down 12 stairs. She was found at the bottom 
of the stairs. She was brought to ___ where she was found to 
have a right open tibia fracture. She was given Ancef and TDaP 
and transferred for ortho/trauma. On arrival only complaining of 
RLE pain. Denies paresthesias. Limited history ___ acuity and 
lack of orientation. Per family has a valid MOLST they present 
with and patient currently on hospice at home. 
 
Past Medical History:
- Atrial fibrillation not on anticoagulation
- HFpEF
- Aspiration
- Anemia
- CKD (baseline Cr 1.6)
- Hypertension
- Headaches
- Spinal stenosis
- GERD
- Ovarian cancer s/p TAH/BSO and chemotherapy
- Neurofibroma
- Lower GI bleed s/p syncopal event.
- IBD
- Internal hemorrhoids
- Esophagitis
- S/p bilateral TKAs
- S/p cholecystectomy
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
Admission Physical Exam: 
General: Comfortable
HEENT: Right orbital ecchymosis without step-off
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: Left hip tenderness, left knee tenderness, right
tib-fib tenderness
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood

Discharge Physical Exam: 
VS:98.2, 85, 156/78, 18, 95% RA
HEENT: No deformity. PERRL, EOMI. Neck supple, trachea midline. 
Mucus membranes pink/moist.
CV: RRR
Pulm: Clear to auscultation bilaterally. 
Abd: Soft, non-tender, non-distended
Ext: Left leg in ___ brace. Right leg with ace wrap. No 
pedal edema. 1+ ___ pulses. 
Neuro: Alert, oriented to person, place, situation, speech is 
clear and fluent. Follows commands and moves all extremities. 

 
Pertinent Results:
CT TORSO (___): 
IMPRESSION:  
  
1.  T7 vertebral body compression deformity, new from ___, may be 
acute, correlate for focal pain. 
2.  Scattered opacities with the lungs likely reflect 
aspiration. 
3.  Right pelvic fractures, incompletely healed, appear chronic 
though new 
from ___. 

___ 06:32AM WBC-14.6* RBC-3.13* Hgb-8.7* Hct-28.0* MCV-90 
MCH-27.8 MCHC-31.1* RDW-17.8* RDWSD-57.6* Plt ___
___ 05:30AM WBC-15.2* RBC-2.92* Hgb-8.2*# Hct-25.9* MCV-89 
MCH-28.1 MCHC-31.7* RDW-17.4* RDWSD-55.9* Plt ___
___ 04:53PM WBC-15.6* RBC-2.34* Hgb-6.4* Hct-21.6* MCV-92 
MCH-27.4 MCHC-29.6* RDW-18.1* RDWSD-59.8* Plt ___
___ 09:20AM Hct-23.0*
___ 05:50AM WBC-13.6* RBC-2.45* Hgb-6.8* Hct-21.6* MCV-88 
MCH-27.8 MCHC-31.5* RDW-17.9* RDWSD-57.5* Plt ___
___ 04:41PM WBC-15.5* RBC-3.06* Hgb-8.3* Hct-27.9* MCV-91 
MCH-27.1 MCHC-29.7* RDW-17.4* RDWSD-58.5* Plt ___

___ 06:32AM BLOOD Glucose-96 UreaN-17 Creat-1.1 Na-141 
K-3.4 Cl-104 HCO3-21* AnGap-19
___ 05:30AM BLOOD Glucose-118* UreaN-21* Creat-1.5* Na-142 
K-3.5 Cl-109* HCO3-19* AnGap-18
___ 04:53PM BLOOD Glucose-121* UreaN-24* Creat-1.7* Na-141 
K-4.6 Cl-109* HCO3-16* AnGap-21*
___ 05:50AM BLOOD Glucose-85 UreaN-25* Creat-1.7* Na-141 
K-3.0* Cl-105 HCO3-22 AnGap-17
___ 04:41PM BLOOD Glucose-135* UreaN-25* Creat-1.6* Na-139 
K-3.3 Cl-104 HCO3-17* AnGap-21*

___ 04:41PM BLOOD ALT-12 AST-21 AlkPhos-81 TotBili-0.2

___ 06:32AM BLOOD Calcium-8.2* Phos-2.9 Mg-2.0
___ 05:30AM BLOOD Calcium-8.4 Phos-2.1* Mg-2.3
___ 04:53PM BLOOD Calcium-8.3* Phos-2.2* Mg-2.1
___ 05:50AM BLOOD Calcium-8.6 Phos-3.3 Mg-2.1
___ 04:41PM BLOOD Albumin-3.8
 
Brief Hospital Course:
Mrs. ___ presented to the ___ ED as a transfer from outside 
hospital on ___ after sustaining a fall down 12 stairs. 
Outside hospital imaging was notable for a right open 
tibial-fibula fracture and left knee fracture. Head CT, chest 
x-ray, and pelvic x-ray were all unremarkable. She was given IV 
antibiotics and transferred for trauma evaluation. 

Upon arrival to ___, FAST was negative. CT torso was notable 
for a T7 vertebral body compression deformity for which the 
Spine service was consulted and recommended TLSO for comfort, 
and a chronic right pelvic fracture. 

Orthopedic surgery was consulted and she underwent ORIF of the 
right open tibial fracture on ___. For the left knee 
fracture, a brace was recommended.  Tertiary exam was negative 
for new findings. 

She was seen and evaluated by neurosurgery for her thoracic 
spine injury. They determined no surgical intervention warranted 
and no need for brace. 

On POD1, hematocrit was noted to be low and she was transfused 1 
unit of pRBCs. He post transfusion hematocrit responded 
appropriately and her hematocrit remained stable. Physical 
therapy evaluated the patient and recommended discharge to 
rehab. 

The patient received subcutaneous heparin and ___ dyne boots 
were used during this stay and was encouraged to get up and 
ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
transferring with assistance and a lift, voiding without 
assistance, and pain was well controlled.  The patient received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan. She was 
discharged to a skilled nursing facility on ___. She will 
follow up with orthopedic surgery on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. LORazepam 0.5 mg PO QHS:PRN insomnia 
5. Benzonatate 100 mg PO TID 
6. Nitroglycerin Patch 0.6 mg/hr TD Q24H 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral DAILY:PRN 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
Hold for loose stools.  
3.  Senna 8.6 mg PO BID:PRN constipation 
hold for diarrhea.  
4.  amLODIPine 5 mg PO DAILY  
5.  Benzonatate 100 mg PO TID  
6.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral DAILY:PRN  
7.  Furosemide 20 mg PO DAILY  
8.  LORazepam 0.5 mg PO QHS:PRN insomnia  
9.  Metoprolol Succinate XL 100 mg PO DAILY  
10.  Nitroglycerin Patch 0.6 mg/hr TD Q24H  
11.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Trauma: fall down twelve stairs
Right open tibial fracture 
left periprosthetic distal femur fracture
T7 vertebral body compression deformity

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___, 

___ were admitted to ___ after suffering a fall. ___ were 
found to have a broken right leg,  a fracture of the left femur 
near your prosthetic, and a T7 vertebral body compresssion 
deformity.  ___ were taken to the operating room for repair of 
the right leg and ___ have a brace in place on the left knee. 
___ are have continued to improve and are now ready for 
discharge.

Please note the following discharge instructions:
 Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
___ experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If ___ are vomiting and cannot keep down fluids or your 
medications.
___ are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
___ see blood or dark/black material when ___ vomit or have a 
bowel movement.
___ experience burning when ___ urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
___.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until ___ follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

*For your leg injuries, ___ will follow-up in the Orthopedic 
Surgery clinic on ___ at 10:40 AM. 

*For your spinal injury, ___ only need to follow up in the Spine 
clinic if needed if your back pain persists. The number to call 
is ___. 
 
Followup Instructions:
___